US04277479
Into 200 ml of dried benzene, 30.6 g of N-γ-chlorobutyrylcyclohexylamine was added. While the inside temperature is kept below 20° C. by ice-cooling the outside of the reaction vessel, 30 g of PCl5 was added under stirring condition. After completion of the addition, the stirring is continued for 2 hours at a room temperature, then the reaction mixture is concentrated to a half volume thereof by using an evaporator with a bath temperature of below 50° C. To the concentrated reaction mixture was added dropwise 140 ml of benzene containing 10% of HN3 under stirring condition for 90 minutes while keeping the inside temperature below 15° C. After the addition operation, the reaction mixture is allowed to stand overnight at room temperature. Then the reaction mixture is refluxed for 3 hours with stirring and is concentrated. The thus obtained concentrate is extracted with 200 ml of chloroform. The chloroform layer is washed with 5% NaHCO3 aqueous solution and with water and dried with Na2SO4. After removal of the drying agent, the mother liquor is concentrated and the residue thus obtained is recrystallized from water-containing isopropanol to obtain 28 g of 1-cyclohexyl-5-γ-chloropropyltetrazole in the form of colorless needle like crystals. Melting point: 82°-85° C.

reactant | N-γ-chlorobutyrylcyclohexylamine | 30.6 g | ClCCCC(=O)NC1CCCCC1 | C10H18ClNO
reactant | PCl5 | 30 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HN3 | N=[N+]=[N-] | HN3
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-cyclohexyl-5-γ-chloropropyltetrazole | 28 g | C1(CCCCC1)N1N=NN=C1CCCCl | C10H17ClN4
